US07700786B2
Diethylcarbamoyl chloride (1.52 g, 7.8 mmol) was added to a solution of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole (1.39 g, 5.0 mmol) and potassium carbonate (1.98 g, 14.3 mmol) in DMF (15 ml), the mixture was stirred at 70° C. for 9 hours and further stirred at room temperature for 2 days. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid, and the mixture was extracted with ethyl acetate (20 ml×3). An organic-layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant. The solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/5), to give a colorless viscous substance of N,N-diethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide (0.21 g, yield: 11.2%). 1H-NMR (CDCl3, TMS, ppm): δ 1.21 (t, J=7.0 Hz, 6H), 2.48 (d, J=0.6 Hz, 3H), 3.47 (q, J=7.0 Hz, 4H), 6.00 (q, J=0.6 Hz, 1H), 7.99 (d, J=2.1 Hz, 1H), 8.33 (m, 1H).

reactant | Diethylcarbamoyl chloride | 7.8 mmol, 1.52 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole | 5.0 mmol, 1.39 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1)C | C10H7ClF3N3O
reactant | potassium carbonate | 14.3 mmol, 1.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N,N-diethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide | 0.21 g, yield: 11.2% | C(C)N(C(=O)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)C(F)(F)F)CC | C15H16ClF3N4O2
